US07192968B2
N-[2-[2-(trans-Styryl)oxazol-4-yl]ethyl]phthalimide
Phthalimide (200 mg), triphenylphosphine (357 mg) and diethyl azodicarboxylate (0.214 ml) were added to a solution of 4-(2-hydroxyethyl)-2-(trans-styryl)oxazole (292 mg) in tetrahydrofuran (15 ml) at room temperature, and the mixture was stirred for 4 hours. The solvent of the reaction mixture was distilled off under reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=3:1) to obtain the title compound (447 mg) as a colorless solid.

reactant | Phthalimide | 200 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 357 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.214 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(2-hydroxyethyl)-2-(trans-styryl)oxazole | 292 mg | OCCC=1N=C(OC1)\C=C\C1=CC=CC=C1 | C13H13NO2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N-[2-[2-(trans-Styryl)oxazol-4-yl]ethyl]phthalimide | 447 mg | C(=C\C1=CC=CC=C1)/C=1OC=C(N1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C21H16N2O3
